US06225330B1
N1-{[4-(4,5-Dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}propanamide:
To a stirred solution of N2-[4-(aminomethyl)cyclohexyl]-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine (0.600 g, 1.49 mmol) in anhydrous pyridine (3 ml) and diisopropylethylamine (3 ml) was added propionyl chloride (0.144 ml, 1.66 mmol) dropwise. The solution was stirred for 20 minutes at room temperature and then poured into water (50 ml) and extracted with EtOAc. The solvent was removed and the residue chromatographed on silica-gel eluting with EtOAc to yield 70% (402 mg) of the product as a light yellow solid: 1H-NMR (CDCl3) δ 1.12 (6H, m), 1.50 (1H, m), 1.65 (1H, m), 1.85 (2H, d, J=12.1 Hz), 2.22 (4H, m), 3.16 (4H, t, J=5.3 Hz), 3.32 (1H, m), 4.33 (2H, t, J=5.2 Hz), 4.81 (1H, m), 5.49 (1H, m), 7.00 (1H, d, J=8.5 Hz), 7.15 (2H, m), 8.25 (1H, d, J=8.1 Hz). m.p. 56-60° C. FAB+m/z=386 (MH+).

reactant | N2-[4-(aminomethyl)cyclohexyl]-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine | 1.49 mmol, 0.600 g | NCC1CCC(CC1)NC=1SC2=C(N1)C1=C(OCC2)C=CC=C1 | C18H23N3OS
reactant | propionyl chloride | 1.66 mmol, 0.144 ml | C(CC)(=O)Cl | C3H5ClO
reactant | water | 50 ml | O | H2O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | diisopropylethylamine | 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | N1-{[4-(4,5-Dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}propanamide | 402 mg, 70% | N1=C(SC2=C1C1=C(OCC2)C=CC=C1)NC1CCC(CC1)CNC(CC)=O | C21H27N3O2S
